US04978476
C. 2-(4-Methylphenyl)benzoxazole
A solution of 120.2 g (1 mole) of 4-tolualdehyde and 109.1 g (1 mole) of 2-aminophenol in toluene is heated at reflux with azeotropic removal of water. After 20 hours at reflux, the reaction is cooled to room temperature, then 443.4 g (1 mole) of lead tetraacetate is added, and the mixture is stirred at room temperature for 20 hours. The solids are removed by filtration, and the filtrate is swirled with basic alumina. Removal of the solvent in vacuo affords the solid product which is then purified by recrystallization from ethanol.

reactant | 4-tolualdehyde | 1 mole, 120.2 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | 2-aminophenol | 1 mole, 109.1 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | water | O | H2O
reactant | lead tetraacetate | 1 mole, 443.4 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Methylphenyl)benzoxazole | CC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C14H11NO
